US08492378B2
methyl 3-[4-(methylthio)phenyl]-1-benzofuran-5-carboxylate
In the same manner as in Reference Example 19 and using methyl 3-bromo-1-benzofuran-5-carboxylate instead of methyl 3-iodoimidazo[1,2-a]pyridine-6-carboxylate and 4-(methylthio)phenylboronic acid instead of (4-methoxyphenyl)boronic acid, the title compound (yield 92%) was obtained as colorless crystals.

reactant | methyl 3-bromo-1-benzofuran-5-carboxylate | BrC1=COC2=C1C=C(C=C2)C(=O)OC | C10H7BrO3
reactant | 4-(methylthio)phenylboronic acid | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
product | methyl 3-[4-(methylthio)phenyl]-1-benzofuran-5-carboxylate | yield 92% | CSC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C(=O)OC | C17H14O3S
